US05591694
a) N-(n-Butylamino)carbonyl-2-(N,N-dimethylaminosulfonyl)benzenesulfonamide
18.6 g (0.18 mol) of n-butyl isocyanate were added dropwise at 25° C. to a suspension of 44.2 g (0.17 mol) of 2-[(N,N-dimethylamino)sulfonyl]benzenesulfonamide (prepared similarly to 2-[(N,N-diethylamino)sulfonyl]benzenesulfonamide in U.S. Pat. No. 4,310,346) in 450 ml of acetonitrile. After the addition of 25.4 g (0.18 mol) of potassium carbonate, the refluxed mixture was stirred for 3 hours. It was cooled to 0° C., after which 400 ml of ice/water were added, the pH was brought to 1 by adding concentrated hydrochloric acid and the precipitate formed was filtered off under suction, washed neutral with water and dried at 40° C. under reduced pressure from a water pump. 60.0 g of the title compound (99% of theory) were obtained in this manner as a pale yellow powder.

reactant | n-butyl isocyanate | 0.18 mol, 18.6 g | C(CCC)N=C=O | C5H9NO
reactant | 2-[(N,N-dimethylamino)sulfonyl]benzenesulfonamide | 0.17 mol, 44.2 g | CN(C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N | C8H12N2O4S2
reactant | 2-[(N,N-diethylamino)sulfonyl]benzenesulfonamide | C(C)N(CC)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N | C10H16N2O4S2
reactant | potassium carbonate | 0.18 mol, 25.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
product | N-(n-Butylamino)carbonyl-2-(N,N-dimethylaminosulfonyl)benzenesulfonamide | 60.0 g, 99% | C(CCC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(C)C | C13H21N3O5S2
